US04134899
Preparation of 4,5,6,7-Tetrahydro-7-hydroxy-benzo[b]thien-4-ylacetamide
Twenty-seven g (0.129M) of 4,5,6,7-Tetrahydro-7-oxobenzo[b]thien-4-ylacetamide is dissolved in absolute ethanol (270 ml) and treated with sodium borohydride (4.9 g, 0.129 M). The mixture is stirred at room temperature overnight, water (250 ml) is added and stirring continued for 2 hours. The bulk of the ethanol is evaporated and the precipitated solid is filtered off, washed twice with water (total 50 ml) and air dried to afford the title compound (13.73 g, 50.4% yield) as an off white solid, m.p 175° C. to 179° C. dec.

reactant | 4,5,6,7-Tetrahydro-7-oxobenzo[b]thien-4-ylacetamide | 0.129M | O=C1CCC(C2=C1SC=C2)CC(=O)N | C10H11NO2S
reactant | sodium borohydride | 0.129 M, 4.9 g | [BH4-].[Na+]
reactant | water | 250 ml | O | H2O
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | 4,5,6,7-Tetrahydro-7-hydroxy-benzo[b]thien-4-ylacetamide | 13.73 g, 50.4% yield | OC1CCC(C2=C1SC=C2)CC(=O)N | C10H13NO2S
